US04335055
The procedure described in Example 1 is followed, except that 13.95 g (0.05 mol) of 4,4'-biphenyldicarboxylic acid dichloride, 13.0 g (0.125 mol) of styrene, 23.13 g (0.125 mol) of tri-n-butylamine and 0.224 g (0.001 mol) of palladium acetate are used. After a reaction time of 3 hours in 100 ml of propionitrile as the solvent, at 100° C., 5.1 g (0.0143 mol) of 4,4'- distyryl-biphenyl, corresponding to a yield of 28.6% of theory, are obtained; melting point 323°-325° C.

reactant | 4,4'-biphenyldicarboxylic acid dichloride | 0.05 mol, 13.95 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=C(C=C1)C(=O)Cl | C14H8Cl2O2
reactant | styrene | 0.125 mol, 13.0 g | C=CC1=CC=CC=C1 | C8H8
reactant | tri-n-butylamine | 0.125 mol, 23.13 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | propionitrile | 100 ml | C(CC)#N | C3H5N
catalyst | palladium acetate | 0.001 mol, 0.224 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4,4'- distyryl-biphenyl | 0.0143 mol, 5.1 g, yield of 28.6% | C(=CC1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=CC1=CC=CC=C1 | C28H22
